US04331675
16.7 g (0.1 mole) of pinacolyl-1,2,4-triazole, 15.6 g (0.1 mole) of 2-naphthaldehyde, 1 g of piperidine and 3 g of glacial acetic acid in 50 ml of toluene were heated under reflux, using a water separator, until no further water passed over. After cooling the reaction solution, it was diluted by adding ether and washed with water. The organic phase was dried over sodium sulphate and concentrated by distilling off the solvents in vacuo. The residue was distilled in vacuo. 18 g (59% of theory) of 4,4-dimethyl-1-(naphth-2-yl)-2-(1,2,4-triazol-1-yl)-1-penten-3-one of boiling point 220° C. were obtained.

reactant | pinacolyl-1,2,4-triazole | 0.1 mole, 16.7 g | C(C)(C(C)(C)C)C1=NNC=N1 | C8H15N3
reactant | 2-naphthaldehyde | 0.1 mole, 15.6 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 3 g | C(C)(=O)O | C2H4O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 4,4-dimethyl-1-(naphth-2-yl)-2-(1,2,4-triazol-1-yl)-1-penten-3-one | 18 g, 59% | CC(C(C(=CC1=CC2=CC=CC=C2C=C1)N1N=CN=C1)=O)(C)C | C19H19N3O
